US08877744B2
a) (R)-5-[5-(5,6-Difluoro-benzooxazol-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one
In a manner analogous to that described in Example 19a), the palladium-catalyzed coupling of (R)-5-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one (intermediate D1.1) and 2-chloro-5,6-difluorobenzo[d]oxazole yielded the title compound (74% yield) as a white powder. MS (ISP): m/z=459.2 [M+H]+.

reactant | (R)-5-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one | CC1(COB(OC1)C=1C(=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=O)C)F)F)C | C19H24BF4NO4
reactant | 2-chloro-5,6-difluorobenzo[d]oxazole | ClC=1OC2=C(N1)C=C(C(=C2)F)F | C7H2ClF2NO
catalyst | palladium | [Pd] | Pd
product | (R)-5-[5-(5,6-Difluoro-benzooxazol-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one | 74% yield | FC=1C(=CC2=C(N=C(O2)C=2C(=CC(=C(C2)[C@]2(NC(COC(C2(F)F)(C)C)=O)C)F)F)C1)F | C21H16F6N2O3
